US07525717B2
2,2′-Methylenebis(1H-benzimidazole)
To a flask were added 20 g polyphosphoric acid. After heating to 90 C under nitrogen, a mixture of 5.0 g 1,2-phenylenediamine and 2.4 g malonic acid were added. The reaction mixture was heated to 180 C for 4 hours, then cooled to 150 C and poured into 40 ml water. The mixture was basified with aqueous ammonium hydroxide. After cooling to 5 C, the product was filtered off and washed with water. The solid was reslurried in 200 ml hot acetonitrile, cooled, filtered and dried leaving 2.7 g of a gray solid.

reactant | 1,2-phenylenediamine | 5.0 g | C1(=C(C=CC=C1)N)N | C6H8N2
reactant | malonic acid | 2.4 g | C(CC(=O)O)(=O)O | C3H4O4
reactant | ammonium hydroxide | [OH-].[NH4+]
solvent | water | 40 ml | O | H2O
product | 2,2′-Methylenebis(1H-benzimidazole) | 2.7 g | C(C1=NC2=C(N1)C=CC=C2)C2=NC1=C(N2)C=CC=C1 | C15H12N4
